US08278345B2
Compound 422: 1-(1H-Benzoimidazol-5-yl)-3-hydroxy-4-(1H-indol-3-yl)-5-quinolin-3-yl-1,5-dihydro-pyrrol-2-one
1H-Benzoimidazol-5-ylamine (1 mmol) and Quinoline-3-carbaldehyde (1 mmol) were added to ethanol (5 ml). After 30 min 3-(1H-Indol-3-yl)-2-oxo-propionic acid ethyl ester (1 mmol) was added. The reaction was heated to 50° C. and stirred for 24 h. After evaporation of the solvent the residue was purified with chromatographic methods.

reactant | 1H-Benzoimidazol-5-ylamine | 1 mmol | N1C=NC2=C1C=CC(=C2)N | C7H7N3
reactant | Quinoline-3-carbaldehyde | 1 mmol | N1=CC(=CC2=CC=CC=C12)C=O | C10H7NO
reactant | 3-(1H-Indol-3-yl)-2-oxo-propionic acid ethyl ester | 1 mmol | C(C)OC(C(CC1=CNC2=CC=CC=C12)=O)=O | C13H13NO3
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1-(1H-Benzoimidazol-5-yl)-3-hydroxy-4-(1H-indol-3-yl)-5-quinolin-3-yl-1,5-dihydro-pyrrol-2-one | N1C=NC2=C1C=CC(=C2)N2C(C(=C(C2C=2C=NC1=CC=CC=C1C2)C2=CNC1=CC=CC=C21)O)=O | C28H19N5O2
